US05952511
(RS)-3-(N'-(3-Methoxyphenyl)ureido)-1-(2-(N,N-dimethylamino)ethyl)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one
To a solution of 0.386 g of (RS)-1-(formylmethyl)-3-(N'-(3-methoxyphenyl)ureido)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one in 50 ml of methanol was added 0.8 g of dimethylamine hydrochloride at room temperature, and 1.0 g of sodium cyanoborohydride was then added thereto. The mixture was stirred at room temperature for 1 day, followed by concentration. The concentrate was diluted with dichloromethane and washed with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was washed with dichloromethane to afford 0.107 g (26%) of the title compound.

reactant | (RS)-1-(formylmethyl)-3-(N'-(3-methoxyphenyl)ureido)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one | 0.386 g | C(=O)CN1C(C(C2=CC=CC=C12)(CC(=O)NC1=CC=C(C=C1)C)NC(=O)NC1=CC(=CC=C1)OC)=O | C27H26N4O5
reactant | dimethylamine hydrochloride | 0.8 g | Cl.CNC
reactant | sodium cyanoborohydride | 1.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (RS)-3-(N'-(3-Methoxyphenyl)ureido)-1-(2-(N,N-dimethylamino)ethyl)-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one | 0.107 g, 26% | COC=1C=C(C=CC1)NC(NC1(C(N(C2=CC=CC=C12)CCN(C)C)=O)CC(=O)NC1=CC=C(C=C1)C)=O | C29H33N5O4
